US07109226B2
Synthesis of N-(4-Chlorophenoxyethyl)-3-(2-hydroxyphenyl)propanamide
N-(4-Chlorophenoxyethyl)-3-(2-methoxyphenyl)propanamide (12.8 g, 38.3 mmol) was dissolved in methylene chloride (10.0 mL). Subsequently, a 1.0M-boron tribromide/methylene chloride solution (49.8 mL, 49.8 mmol) was slowly added dropwise thereto under ice-cooling, followed by stirring for 1 hour at room temperature. Subsequently, water was slowly added dropwise thereto under ice-cooling, followed by stirring for 30 minutes. The resultant mixture was extracted with chloroform. The organic layer was washed with brine, and the resultant mixture was subjected to drying over anhydrous sodium sulfate, concentration under reduced pressure, and purification by column chromatography (n-hexane/ethyl acetate=20/1), whereby a white solid was obtained (11.6 g, 95%).

reactant | N-(4-Chlorophenoxyethyl)-3-(2-methoxyphenyl)propanamide | 38.3 mmol, 12.8 g | ClC1=CC=C(OCCNC(CCC2=C(C=CC=C2)OC)=O)C=C1 | C18H20ClNO3
reactant | boron tribromide methylene chloride | 49.8 mmol, 49.8 mL | B(Br)(Br)Br.C(Cl)Cl
reactant | water | O | H2O
solvent | methylene chloride | 10.0 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Chlorophenoxyethyl)-3-(2-hydroxyphenyl)propanamide | ClC1=CC=C(OCCNC(CCC2=C(C=CC=C2)O)=O)C=C1 | C17H18ClNO3
